US08242055B2
2. Preparation of 4-(3,4-dichlorophenyl)-5-hydroxy-2-methyl-3(2H)-pyridazinone (No. 4 of Table 21)
4 ml of water/ethanediol (1:1) were added to 1.0 g (7.4 mmol) of 4-(3,4-dichlorophenyl)-5-methoxy-2-methyl-2H-pyridazin-3-one and 0.4 g of potassium hydroxide (2 eq), and the mixture was reacted at 150° C. overnight. The reaction mixture was added to 50 ml of water and adjusted to pH 1 using concentrated hydrochloric acid, and the resulting precipitate was filtered off. Recrystallization from isopropanol gave 0.2 g of pure product.

reactant | water ethanediol | 4 ml | O.C(C)(O)O
reactant | 4-(3,4-dichlorophenyl)-5-methoxy-2-methyl-2H-pyridazin-3-one | 7.4 mmol, 1.0 g | ClC=1C=C(C=CC1Cl)C=1C(N(N=CC1OC)C)=O | C12H10Cl2N2O2
reactant | potassium hydroxide | 0.4 g, 2 eq | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 50 ml | O | H2O
product | 4-(3,4-dichlorophenyl)-5-hydroxy-2-methyl-3(2H)-pyridazinone | 0.2 g | ClC=1C=C(C=CC1Cl)C=1C(N(N=CC1O)C)=O | C11H8Cl2N2O2
